US09371320B2
D) 7-methoxy-1-(4-sulfamoylphenyl)-1H-pyrazolo[3,4-c]pyridin-3-yl trifluoromethanesulfonate
To a solution of 4-(3-hydroxy-7-methoxy-1H-pyrazolo[3,4-c]pyridin-1-yl)benzenesulfonamide (70.5 mg) in pyridine (5 mL) was added trifluoromethanesulfonic anhydride (186 mg) under ice-cooling, and the mixture was stirred under nitrogen atmosphere at room temperature for 3 hr. To the reaction mixture was added saturated aqueous sodium hydrogencarbonate solution under ice-cooling, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate) to give the title compound (59 mg).

reactant | 4-(3-hydroxy-7-methoxy-1H-pyrazolo[3,4-c]pyridin-1-yl)benzenesulfonamide | 70.5 mg | OC1=NN(C2=C(N=CC=C21)OC)C2=CC=C(C=C2)S(=O)(=O)N | C13H12N4O4S
reactant | trifluoromethanesulfonic anhydride | 186 mg | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | 7-methoxy-1-(4-sulfamoylphenyl)-1H-pyrazolo[3,4-c]pyridin-3-yl trifluoromethanesulfonate | 59 mg | FC(S(=O)(=O)OC1=NN(C2=C(N=CC=C21)OC)C2=CC=C(C=C2)S(N)(=O)=O)(F)F | C14H11F3N4O6S2
